US08283353B2
4-(3-methoxy-2,2-dimethylpropyl)-2-methyl-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
To a solution (10 mL) of 4′-{[4-(3-hydroxy-2,2-dimethylpropyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.24 g) in methylene chloride were added tetrafluoroboric acid (42% aqueous solution, 0.15 mL) and trimethylsilyldiazomethane (2M hexane solution, 0.51 mL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by silica gel column chromatography was dissolved in dimethyl sulfoxide (5 mL), and the mixture was added to a mixture of hydroxylammonium chloride (0.33 g), sodium hydrogen carbonate (0.53 g) and dimethyl sulfoxide (5 mL), which had been stirred in advance at 40° C. for 30 min. The reaction mixture was stirred at 90° C. for 16 hr, and diluted with ethyl acetate, and the mixture was washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). N,N′-Carbonyldiimidazole (0.061 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.052 mL) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as colorless crystals (0.082 g, 30%).

reactant | 4′-{[4-(3-hydroxy-2,2-dimethylpropyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 10 mL, 0.24 g | OCC(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)(C)C | C28H31N5O2
reactant | tetrafluoroboric acid | 0.15 mL | F[B-](F)(F)F.[H+]
reactant | trimethylsilyldiazomethane | 2M, 0.51 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hydroxylammonium chloride | 0.33 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 0.53 g | C(O)([O-])=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 4-(3-methoxy-2,2-dimethylpropyl)-2-methyl-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.082 g, 30% | COCC(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=C(N2)C)(C)C | C30H34N6O4
